### PR TITLE
feat: a norm_num extension for complex numbers

### PR DESCRIPTION
**Pull request by Whysoserioushah**
co-authored-by : @thefundamentaltheor3m, @hrmacbeth 

---

* depends on: #39628
* depends on: #39620

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
Please add a file that tests all the operations handled here; I assume you already have some tests downstream that you can include here?

**Comment by Whysoserioushah** [comment]
where should I put the test file?

**Comment by hrmacbeth** [comment]
> where should I put the test file?

Please make a new file in `MathlibTest`.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 1]
```diff
@@ -0,0 +1,235 @@
...
+
+-/
+
+open Lean Meta Elab Qq Tactic Complex Mathlib.Tactic
+open ComplexConjugate
+
+namespace Mathlib.Meta
+namespace NormNumI
+
+theorem split_I : I = ⟨0, 1⟩ := rfl
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: For symmetry with the internals of norm_num, I'd suggest
```suggestion
structure IsComplex (z : ℂ) (re im : ℝ) : Prop where
  out : z = ⟨re, im⟩

theorem split_I : IsComplex I 0 1 where out := rfl
```
(and throughout)


Some other benefits of this approach:
* Dot notation
* It's easier to do a future refactor to make it use `RCLike` instead.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 2]
```diff
@@ -0,0 +1,235 @@
...
+
+theorem split_zero : (0 : ℂ) = ⟨0, 0⟩ := rfl
+
+theorem split_one : (1 : ℂ) = ⟨1, 0⟩ := rfl
+
+theorem split_add {z₁ z₂ : ℂ} {a₁ a₂ b₁ b₂ : ℝ}
+    (h₁ : z₁ = ⟨a₁, b₁⟩) (h₂ : z₂ = ⟨a₂, b₂⟩) :
+    z₁ + z₂ = ⟨(a₁ + a₂), (b₁ + b₂)⟩ := by
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: With the change above:
```suggestion
theorem IsComplex.add {z₁ z₂ : ℂ} {a₁ a₂ b₁ b₂ : ℝ}
    (h₁ : IsComplex z₁ a₁ b₁) (h₂ : IsComplex z₂ a₂ b₂) :
    IsComplex (z₁ + z₂) (a₁ + a₂) (b₁ + b₂) := by
```

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 3]
```diff
@@ -0,0 +1,238 @@
...
+
+theorem pow_ofNat {z w : ℂ} {k k' : ℤ} {n : ℕ} {a b : ℝ} (hz1 : z = w ^ k)
+    (hw : w ^ n = ⟨a, b⟩) (hk' : k' = n) (hkk' : NormNum.IsInt k k') :
+    z = ⟨a, b⟩ := by
+  obtain rfl : k = k' := by simpa using hkk'.out
+  simpa [hz1, hk'] using hw
+
+/-- Parsing all the basic calculation in complex. -/
+partial def parse (z : Q(ℂ)) :
+    MetaM (Σ a b : Q(ℝ),  Q($z = ⟨$a, $b⟩)) := do
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]:
```suggestion
    MetaM (Σ a b : Q(ℝ), Q(IsComplex $z $a $b)) := do
```
etc

File: MathlibTest/norm_numI.lean [hunk 4]
```diff
@@ -0,0 +1,91 @@
...
+example : (1.0:ℂ) + 0 = 1 := by norm_num1
+example : (1.0:ℂ) + 0.5 = 3/2 := by norm_num1
+example : I + (3/2:ℂ) = 3/2 + I := by norm_num1
+example : 1 * (2:ℂ) = 2 := by norm_num1
+example : (1 + I) * (1 + I * I * I) = 2 := by norm_num1
+example : (1 + 3.5 + I) * (1 + I) = 7 / 2 + 11 / 2 * I := by norm_num1
+example : (3 + 4.5 * I)⁻¹ * (3 + 4.5 * I) = 1 := by norm_num1
+example : -1 / (1 + I) = (I - 1) / 2 := by norm_num1
+example : (I:ℂ) = 0 + 1 * I := by norm_num1
+example : (1.5:ℂ) = ⟨3 / 2, 0⟩ := by conv_lhs => norm_numI
```
Comment (eric-wieser) [inline MathlibTest/norm_numI.lean]: I think this should normalize to `3 / 2` or perhaps `Complex.ofReal (3 / 2)`, not a constructor application.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 5]
```diff
@@ -0,0 +1,228 @@
...
+  /- parse `z₁/z₂` -/
+  | ~q($z₁ / $z₂) => do
+    let ⟨_a, _b, pf⟩ ← parse q($z₁ * $z₂⁻¹)
+    return ⟨_, _, q($pf)⟩
+  /- parse `-z` -/
+  | ~q(-$w) => do
+    let ⟨_a, _b, pf⟩ ← parse w
+    return ⟨_, _, q(.neg $pf)⟩
+  /- parse a subtraction `z₁ - z₂` -/
+  | ~q($z₁ - $z₂) => parse q($z₁ + -$z₂)
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: This isn't type safe, and is abusing the defeq. Better to define a separate `IsComplex.sub`.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 6]
```diff
@@ -0,0 +1,228 @@
...
+    return ⟨_, _, q(.conj $pf)⟩
+  /- parse natural number power -/
+  | ~q($w ^ ($n' : ℕ)) =>
+    let ⟨n, hn⟩ ← NormNum.deriveNat q($n') q(inferInstance)
+    match n.natLit! with
+    | 0 =>
+      let _i : $n =Q 0 := ⟨⟩
+      return ⟨q(1), q(0), q(⟨show $w ^ $n' = _ from $(hn).out ▸ pow_zero _⟩)⟩
+    | n + 1 =>
+      parse q($w^$n * $w)
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: This one is bypassing Qq safety too.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 7]
```diff
@@ -0,0 +1,228 @@
...
+    IsComplex z a b := by
+  obtain rfl : k = k' := by simpa using hkk'.out
+  constructor
+  simpa [hz1, hk'] using hw.out
+
+/-- Parsing all the basic calculation in complex. -/
+partial def parse (z : Q(ℂ)) : MetaM (Σ a b : Q(ℝ), Q(IsComplex $z $a $b)) := do
+  match z with
+  /- parse an addition: `z₁ + z₂` -/
+  | ~q($z₁ + $z₂) =>
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: Let's drop all these comments, they're just identical to the source code.

File: MathlibTest/norm_numI.lean (hunk 4 above)
Comment (hrmacbeth) [reply MathlibTest/norm_numI.lean]: I think this is ok, right?  This is only testing that they normalize to the same thing, not that the RHS is the normal form of the LHS.

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 7 above)
Comment (Whysoserioushah) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: removed

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 5 above)
Comment (Whysoserioushah) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: done :)

File: MathlibTest/norm_numI.lean (hunk 4 above)
Comment (eric-wieser) [reply MathlibTest/norm_numI.lean]: This is testing that `norm_numI` changes `(1.5:ℂ)` to `⟨3 / 2, 0⟩`, not that both sides normalize to the same thing (this one is the `conv` tactic, unlike the other tests).

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: (you should unpack the result and put it back together, so that Qq can see what's going on)

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 8]
```diff
@@ -0,0 +1,222 @@
...
+    return ⟨_, _, q(.scientific _ _ _)⟩
+  | _ => throwError "found the atom {z} which is not a numeral"
+
+/-- Using `norm_num` to normalise expressions -/
+def normalize (z : Q(ℂ)) : MetaM (Σ a b : Q(ℝ), Q(IsComplex $z $a $b)) := do
+  let ⟨a, b, pf⟩ ← parse z
+  let ra ← Mathlib.Meta.NormNum.derive (α := q(ℝ)) a
+  let rb ← Mathlib.Meta.NormNum.derive (α := q(ℝ)) b
+  let { expr := (a' : Q(ℝ)), proof? := (pf_a : Q($a = $a')) } ← ra.toSimpResult | unreachable!
+  let { expr := (b' : Q(ℝ)), proof? := (pf_b : Q($b = $b')) } ← rb.toSimpResult | unreachable!
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: After #27003 this can perhaps lose the annotations.

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 6 above)
Comment (Whysoserioushah) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: so I need to prove `$w^$n' = $w^$n * $w`?

Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: Yes, similar to how you do above.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 9]
```diff
@@ -0,0 +1,222 @@
...
+  | ~q(1) =>
+    pure ⟨_, _, q(.one)⟩
+  | ~q(OfNat.ofNat $en (self := @instOfNatAtLeastTwo ℂ _ _ $inst)) =>
+    return ⟨_, _, q(.ofNat $en)⟩
+  | ~q(OfScientific.ofScientific $m $x $exp) =>
+    return ⟨_, _, q(.scientific _ _ _)⟩
+  | _ => throwError "found the atom {z} which is not a numeral"
+
+/-- Using `norm_num` to normalise expressions -/
+def normalize (z : Q(ℂ)) : MetaM (Σ a b : Q(ℝ), Q(IsComplex $z $a $b)) := do
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: I think this function should actually be
```suggestion
def normalize (z : Q(ℂ)) : MetaM (Simp.ResultQ q($z)) := do
```
and should look at `ra` and `rb` to decide something like
* `-$(-b)*I`
* `-I`
* `I`
* `$b*I`
* `$a - $(-b)*I`
* `$a - I`
* `$a`
* `$a + I`
* `$a + $b*I`

depending on the sign of `b` and whether it is `1`/`0`/`-1`.

File: MathlibTest/norm_numI.lean (hunk 4 above)
Comment (hrmacbeth) [reply MathlibTest/norm_numI.lean]: Ah, you're right.

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 9 above)
Comment (hrmacbeth) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: [ignore this, I misunderstood]

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 6 above)
Comment (Whysoserioushah) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: done!

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 10]
```diff
@@ -0,0 +1,242 @@
...
+/-- The `norm_num` extension which identifies expressions of the form `(z : ℂ) = (w : ℂ)`,
+such that `norm_num` successfully recognises both the real and imaginary parts of both `z` and `w`.
+-/
+@[norm_num (_ : ℂ) = _] def evalComplexEq : NormNumExt where eval {v β} e := do
+  haveI' : v =QL 0 := ⟨⟩; haveI' : $β =Q Prop := ⟨⟩
+  let ~q(($z : ℂ) = $w) := e | failure
+  haveI' : $e =Q ($z = $w) := ⟨⟩
+  let ⟨az, bz, pfz⟩ ← NormNumI.parse z
+  let ⟨aw, bw, pfw⟩ ← NormNumI.parse w
+  let ⟨ba, ra⟩ ← withTraceNode `debug (fun x =>
```
Comment (hrmacbeth) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: There are a few traces to the `debug` channel (e.g. here), these should be removed.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 11]
```diff
@@ -0,0 +1,242 @@
...
+    return m!"{exceptEmoji x} norm_numI.evalComplexEq: z = {az} + {bz}i {q($az = $aw)}") do
+    deriveBool q($az = $aw)
+  trace[debug] "norm_numI.evalComplexEq output: {ba} {ra}"
```
Comment (hrmacbeth) [inline Mathlib/Tactic/NormNum/NormNumI.lean]:
```suggestion
```

File: MathlibTest/norm_numI.lean [hunk 12]
```diff
@@ -0,0 +1,94 @@
...
+example : (3 + I : ℂ) ^ 2 = 8 + 6 * I := by norm_num1
+example : (3 : ℂ) ^ 2 + (4 : ℂ) ^ 2 = 25 := by norm_num1
+
+example : 3 + I ≠ I ^ 2 := by norm_num1
+example : I ^ 2 ≠ 3 := by norm_num1
+example : 1 + I ≠ 0 := by norm_num1
+example : 1 + I ≠ 1 + 2 * I := by norm_num1
+
+-- This is already pretty slow, but is 2x slower without the `binaryRec` implementation.`
+example : I ^ 11 = -I := by norm_num
```
Comment (eric-wieser) [inline MathlibTest/norm_numI.lean]: I think this flags that we're using the wrong approach; we should normalize at each step, rather than producing a huge expression and then normalizing it. That would look like storing a `NormNum.Result` for the real and imaginary part, and using `evalMul` etc to combine them under operations.

Comment (hrmacbeth) [reply MathlibTest/norm_numI.lean]: We had experimented with that approach, but it's really poorly supported by the `norm_num` implementation. For example, there's no good way, given `NormNum.Result`s for `x1`, `x2`, `y1` and `y2`, to make a `NormNum.Result` for `x1 * x2 - y1 * y2`. The code really balloons in size with this approach.

Comment (eric-wieser) [reply MathlibTest/norm_numI.lean]: I think `Mathlib.Meta.NormNum.evalMul.core` is supposed to fill that task, through the signature isn't quite right.

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 10 above)
Comment (Whysoserioushah) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: sure :)

File: MathlibTest/norm_numI.lean (hunk 12 above)
Comment (hrmacbeth) [reply MathlibTest/norm_numI.lean]: That does the multiplication, but then you need the second multiplication and the subtraction, and the same again for the imaginary part! So you end up with six lines (and the six lines are very cumbersome because of all the info you need to pass to `Mathlib.Meta.NormNum.evalMul.core` and its friends).

More broadly, writing this all out just starts to seem like you're rewriting `norm_num`, handling each arithmetic operation by hand :(

I'd be more enthusiastic about this approach if you could actually pass a "formal arithmetic expression" `x1 * x2 - y1 * y2`(where `x1`, `x2`, `y1` and `y2` are `NormNum.Result`s) and it figured out for you (using the `norm_num` extension lookup) which `norm_num` sub-methods (for `*`, `-`, `+`, ...) to invoke on which pieces.  But that would be a huge refactor for `NormNum` and its extensions.

Comment (eric-wieser) [reply MathlibTest/norm_numI.lean]: I would be quite happy with something like `(<- hx1.mul hx2).sub (<- hy1.mul hy2)`, modulo a few extra explicit arguments needed for performance reasons, I don't think we need fully magic syntax here.

> More broadly, writing this all out just starts to seem like you're rewriting norm_num, handling each arithmetic operation by hand

Not at all! We'd be rewriting norm_num if we had to case split on nat/negnat/rat, which we certainly should not be doing here!

Comment (eric-wieser) [reply MathlibTest/norm_numI.lean]: Having said that, if we want to refactor the API to allow that, probably we want to land #9915 first.

Comment (hrmacbeth) [reply MathlibTest/norm_numI.lean]: > I would be quite happy with something like `(<- hx1.mul hx2).sub (<- hy1.mul hy2)`, modulo a few extra explicit arguments needed for performance reasons

In our earlier version of the tactic which took this approach, it looked a lot more cumbersome than your pseudocode. For example, here's what we had to handle multiplication:
```lean
theorem split_mul {z₁ z₂ a₁ a₂ b₁ b₂ : ℂ} (h₁ : z₁ = a₁ + b₁ * I) (h₂ : z₂ = a₂ + b₂ * I) :
    z₁ * z₂ = (a₁ * a₂ - b₁ * b₂) + (a₁ * b₂ + b₁ * a₂) * I := _

def evalReMul.core {x₁ x₂ y₁ y₂ : Q(ℂ)} (rx₁ : Result (u := 0) x₁)
    (rx₂ : Result (u := 0) x₂) (ry₁ : Result (u := 0) y₁) (ry₂ : Result (u := 0) y₂) :
    Option (Result (u := 0) q($x₁ * $x₂ - $y₁ * $y₂)) := do
  let i' : Q(Semiring ℂ) := q(Complex.instSemiring)
  let i'' : Q(Ring ℂ) := q(Complex.instRing)
  let A₁ ← evalMul.core q($x₁ * $x₂) q(HMul.hMul) _ _ i' rx₁ rx₂
  let A₂ ← evalMul.core q($y₁ * $y₂) q(HMul.hMul) _ _ i' ry₁ ry₂
  evalSub.core q($x₁ * $x₂ - $y₁ * $y₂) q(HSub.hSub) _ _ i'' A₁ A₂

def evalImMul.core {x₁ x₂ y₁ y₂ : Q(ℂ)} (rx₁ : Result (u := 0) x₁)
    (rx₂ : Result (u := 0) x₂) (ry₁ : Result (u := 0) y₁) (ry₂ : Result (u := 0) y₂) :
    Option (Result (u := 0) q($x₁ * $y₂ + $y₁ * $x₂)) := do
  let i' : Q(Semiring ℂ) := q(Complex.instSemiring)
  let A₁ ← evalMul.core q($x₁ * $y₂) q(HMul.hMul) _ _ i' rx₁ ry₂
  let A₂ ← evalMul.core q($y₁ * $x₂) q(HMul.hMul) _ _ i' ry₁ rx₂
  evalAdd.core q($x₁ * $y₂ + $y₁ * $x₂) q(HAdd.hAdd) _ _ A₁ A₂

-- lines for handling `*` inside the `parse` function
| ~q($z₁ * $z₂) =>
  let ⟨a₁, b₁, r₁, s₁, pf₁⟩ ← parse z₁
  let ⟨a₂, b₂, r₂, s₂, pf₂⟩ ← parse z₂
  let some A := evalReMul.core r₁ r₂ s₁ s₂ | throwError "zz"
  let some B := evalImMul.core r₁ r₂ s₁ s₂ | throwError "zz"
  pure ⟨q($a₁ * $a₂ - $b₁ * $b₂), q($a₁ * $b₂ + $b₁ * $a₂), A, B, q(split_mul $pf₁ $pf₂)⟩
```

Comment (hrmacbeth) [reply MathlibTest/norm_numI.lean]: This is really significantly less transparent than the current "all the norm_nums postponed" approach:
```lean
theorem split_mul {z₁ z₂ : ℂ} {a₁ a₂ b₁ b₂ : ℝ} (h₁ : z₁ = ⟨a₁, b₁⟩) (h₂ : z₂ = ⟨a₂, b₂⟩) :
    z₁ * z₂ = ⟨(a₁ * a₂ - b₁ * b₂), (a₁ * b₂ + b₁ * a₂)⟩ := _

-- lines for handling `*` inside the `parse` function
| ~q($z₁ * $z₂) =>
  let ⟨_a₁, _b₁, pf₁⟩ ← parse z₁
  let ⟨_a₂, _b₂, pf₂⟩ ← parse z₂
  pure ⟨q($a₁ * $a₂ - $b₁ * $b₂), q($a₁ * $b₂ + $b₁ * $a₂), q(split_mul $pf₁ $pf₂)⟩
```

Comment (hrmacbeth) [reply MathlibTest/norm_numI.lean]: Do you have some tricks in mind to make it look more like `(<- hx1.mul hx2).sub (<- hy1.mul hy2)`?  I do acknowledge that our initial implementation is faster than the current implementation, but I don't think it's worth the tradeoff of *so* much boilerplate.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 13]
```diff
@@ -0,0 +1,241 @@
...
+    let ⟨bb, rb⟩ ← deriveBool q($bz = $bw)
+    match bb with
+    | true => return Result'.isBool true q(NormNumI.eq_of_eq_of_eq_of_eq $pfz $pfw $ra $rb)
+    | false => return Result'.isBool false q(NormNumI.ne_of_im_ne $pfz $pfw $rb)
+  | false => return Result'.isBool false q(NormNumI.ne_of_re_ne $pfz $pfw $ra)
+
+/-- The `norm_num` extension which identifies expressions of the form `Complex.re (z : ℂ)`,
+such that `norm_num` successfully recognises the real part of `z`.
+-/
+@[norm_num Complex.re _] def evalRe : NormNumExt where eval {v β} e := do
```
Comment (dupuisf) [inline Mathlib/Tactic/NormNum/NormNumI.lean:284]: Can you also add support for `RCLike.re` and `RCLike.im`?

Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean:284]: I guess this request applies more generally to making the whole tactic work for `RCLike`?

File: MathlibTest/norm_numI.lean (hunk 12 above)
Comment (eric-wieser) [reply MathlibTest/norm_numI.lean]: I suspect such a refactor is within reach, but I'd rather not attempt it until #9915 lands, which such a refactor would clash with.

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 13 above)
Comment (dupuisf) [reply Mathlib/Tactic/NormNum/NormNumI.lean:284]: I guess it does :-)

**Comment by hrmacbeth** [comment]
@Whysoserioushah Can you please merge master on this PR? The `norm_num` PR mentioned earlier by @eric-wieser (#9915) is now merged, it would be nice to have the updated `norm_num` code available here for experiments.

**Comment by Whysoserioushah** [comment]
> @Whysoserioushah Can you please merge master on this PR? The `norm_num` PR mentioned earlier by @eric-wieser (#9915) is now merged, it would be nice to have the updated `norm_num` code available here for experiments.

sure! :-)

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 13 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean:284]: I just converted all the internal lemmas to use `RCLike`; @Whysoserioushah, do you want to have a go at converting the meta code?

Comment (hrmacbeth) [reply Mathlib/Tactic/NormNum/NormNumI.lean:284]: I'm worried that it will cause loops/slowdowns if we try to write something for `RCLike`, because `Real` has an `RCLike` instance!  (That is, we don't want `norm_num` to send equalities of reals to this `norm_num` extension.) @eric-wieser have you thought about this potential issue already?

Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean:284]: Ah, that had not occurred to me! I suppose the logic could be:

1. synthesize an `RCLike` instance
2. check it is not defeq to the one on `Real`

It will then work for `Complex` and abstract `RCLIke`, which are the two cases we care about anyway.

Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean:284]: Or in fact, just checking if the type is defeq to `Real` is probably sufficient.

File: MathlibTest/norm_numI.lean (hunk 12 above)
Comment (eric-wieser) [reply MathlibTest/norm_numI.lean]: > Do you have some tricks in mind to make it look more like `(<- hx1.mul hx2).sub (<- hy1.mul hy2)`?

#28621 looks promising in this direction.

Comment (eric-wieser) [reply MathlibTest/norm_numI.lean]: This now works:
```lean-4
structure ResultI (a : Q($𝕜)) where
  re : NormNum.Result q(RCLike.re $a)
  im : NormNum.Result q(RCLike.im $a)

def ResultI.add {a b : Q($𝕜)} (ha : ResultI inst q($a)) (hb : ResultI inst q($b)) :
    MetaM (ResultI inst q($a + $b)) := do
  return {
    re := (← ha.re.add hb.re q(delta% inferInstance)).eqTrans q(map_add RCLike.re $a $b)
    im := (← ha.im.add hb.im q(delta% inferInstance)).eqTrans q(map_add RCLike.im $a $b) }
```
There is unfortunately something wrong with the default arguments to `add`, which probably requires a Qq patch.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 14]
```diff
@@ -0,0 +1,248 @@
...
+    IsComplex (OfNat.ofNat (α := 𝕜) n) (OfNat.ofNat n) 0 := ⟨RCLike.ofNat_re _, RCLike.ofNat_im _⟩
+
+theorem IsComplex.scientific (m exp : ℕ) (x : Bool) :
+    IsComplex (OfScientific.ofScientific m x exp : 𝕜) (OfScientific.ofScientific m x exp : ℝ) 0 :=
+  ⟨RCLike.nnratCast_re _, RCLike.nnratCast_im _⟩
+
+theorem eq_eq {z : 𝕜} {a b a' b' : ℝ} (pf : IsComplex z a b) (pf_a : a = a') (pf_b : b = b') :
+  IsComplex z a' b' := by simp_all
+
+theorem eq_of_eq_of_eq_of_eq {z w : 𝕜} {az bz aw bw : ℝ}
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: I think this is one `eq` too many in the name

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 15]
```diff
@@ -0,0 +1,248 @@
...
+open Lean Meta Elab Qq Tactic Complex Mathlib.Tactic
+open ComplexConjugate
+
+namespace Mathlib.Meta
+namespace NormNumI
+
+variable {𝕜} [RCLike 𝕜]
+
+/-- Assert that a complex number is equal to `re + im * I`. -/
+structure IsComplex {𝕜} [RCLike 𝕜] (z : 𝕜) (re im : ℝ) : Prop where
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: Is there any reason why this is defined for `RCLike` instead of just for `ℂ`?

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 16]
```diff
@@ -0,0 +1,248 @@
...
+
+theorem pow_bit_false (z : 𝕜) (m : ℕ) : z ^ Nat.bit false m = z ^ m * z ^ m := by
+  rw [Nat.bit, cond, pow_mul', sq]
+
+theorem pow_bit_true (z : 𝕜) (m : ℕ) : z ^ Nat.bit true m = z ^ m * z ^ m * z := by
+  rw [Nat.bit, cond, pow_add, pow_mul', pow_one, sq]
+
+/-- Using fast exponentiation to handle nat powers of complexes. -/
+partial def parsePow (n' : ℕ) :
+    ⦃a b : Q(ℝ)⦄ → (z : Q(ℂ)) → (n : Q(ℕ)) → Q(NormNum.IsNat $n $n') →  Q(IsComplex $z $a $b) →
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormNum/NormNumI.lean]:
```suggestion
    ⦃a b : Q(ℝ)⦄ → (z : Q(ℂ)) → (n : Q(ℕ)) → Q(NormNum.IsNat $n $n') → Q(IsComplex $z $a $b) →
```
duplicate space

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 17]
```diff
@@ -0,0 +1,248 @@
...
+    MetaM (Σ a b : Q(ℝ), Q(IsComplex ($z ^ $n) $a $b)) :=
+  n'.binaryRec'
```
Comment (JovanGerb) [inline Mathlib/Tactic/NormNum/NormNumI.lean:131]: You can use `binaryRec` instead of `binaryRec'`.

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 15 above)
Comment (JovanGerb) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: Ah I see now that there was a discussion below about supporting general `RCLike`s

**Review by JovanGerb — APPROVED** [review]
Could you describe in the module doc-string exactly which expressions the `norm_num` and `norm_numI` tactics can be used on.

From what I can tell there are a few TODO's in this PR, but if nobody is working on them, then I would be in favour of merging this PR as is, because I think it is already very useful.

- Generalizing from `ℂ` to `RCLike`
- Instead of constructing an enormous expression and then calling `norm_num` on that, we can normalize the real and complex parts on the fly, so that we return a simplified result immediately. This may be more efficient.

However, I think that these TODOs are not the end. I would love to see a version of `norm_num` that can prove that `(2 : ℝ) * √2 = √8`, or that `(√2 + I) * (√2 - I) = 3`.

**Comment by JovanGerb** [comment]
By the way, I was thinking that dealing with complex numbers like this is actually a job for `ring` instead of `norm_num`. Because you also want to simplify `(a + bi)(a - bi) = a^2 + b^2`. But that is out of scope for `norm_num` because we don't have concrete numbers.

I made a start at implementing this but didn't get too far yet. The idea is to have `ring` recognize when an expression is an n-th root for some particular n, or more generally a root of a particular polynomial. And then it would do the substitution when the exponent is of the right form. So `i^2` becomes `-1`, `i^3` becomes `(-1)*i`, and `i^(2n)` becomes `(-1)^n`.

**Comment by grunweg** [comment]
Coming here from PR triage - can you tell me what the current status is? I would be very happy to see norm_num become more powerful; is this waiting on a design decision, you finding time to implement something, reviews, ...? (It certainly fails CI, which is why it is not on the review queue.) Please help us help you to get this PR merged :-)

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 18]
```diff
@@ -614,6 +614,12 @@ theorem intCast_re (n : ℤ) : re (n : K) = n := by rw [← ofReal_intCast, ofRe
 @[simp, rclike_simps, norm_cast]
 theorem intCast_im (n : ℤ) : im (n : K) = 0 := by rw [← ofReal_intCast, ofReal_im]
 
+@[simp, rclike_simps] -- Porting note: removed `norm_cast`
```
Comment (Vierkantor) [inline Mathlib/Analysis/RCLike/Basic.lean]: I don't think this comment is relevant (anymore):
```suggestion
@[simp, rclike_simps]
```

**Review by Vierkantor — COMMENTED** [review]
I implemented exponentiation in the style of the other operations. If you're happy with this, I can do a full review.

**Comment by Whysoserioushah** [comment]
> I implemented exponentiation in the style of the other operations. If you're happy with this, I can do a full review.

@eric-wieser Are you happy with this implementation? I think it's okay

File: Mathlib/Tactic/NormNum/Eq.lean [hunk 19]
```diff
@@ -109,7 +102,7 @@ such that `norm_num` successfully recognises both `a` and `b`. -/
   | .isBool .., _ | _, .isBool .. => failure
   | .isNegNNRat dα .., _ | _, .isNegNNRat dα .. => ratArm dα
   -- mixing positive rationals and negative naturals means we need to use the full rat handler
-  | .isNNRat dsα .., .isNegNat rα .. | .isNegNat rα .., .isNNRat dsα .. =>
+  | .isNNRat _ .., .isNegNat _ .. | .isNegNat _ .., .isNNRat _ .. =>
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/Eq.lean:105]: Removing these names makes the comment below not make any sense any more.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 20]
```diff
@@ -0,0 +1,294 @@
...
+  have n : Q(ℕ) := mkRawNatLit n'
+  have pm : Q(NormNum.IsNat $mantissa $mantissa) := q(.mk rfl)
+  have pe : Q(NormNum.IsNat $decimalExponent $decimalExponent) := q(.mk rfl)
+  haveI : $n =Q Nat.mul $mantissa (Nat.pow (10 : ℕ) $decimalExponent) := ⟨⟩
+  return .isNat (x := x) q(inferInstance) n
+    (q(NormNum.isNat_ofScientific_of_false (α := ℝ) $pm $pe (.refl $n)):)
+
+/-- Parsing all the basic calculation in complex. -/
+partial def parse (z : Q(ℂ)) : MetaM (ResultI q($z)) := do
+  trace[debug] "NormNumI.parse: parsing {z}"
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: I don't think `trace[debug]` is usually committed; can we use a `norm_num` trace class instead, or even register a new one?

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 21]
```diff
@@ -0,0 +1,294 @@
...
+  match z with
+  | ~q($z₁ + $z₂) =>
+    let r1 ← parse z₁
+    let r2 ← parse z₂
+    return ((← r1.add r2).eqTrans q(rfl))
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: nit:
```suggestion
    return (← r1.add r2).eqTrans q(rfl)
```
throughout

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 22]
```diff
@@ -0,0 +1,294 @@
...
+/-- Result of `norm_num` running on lift of natural numbers in real -/
+def NormNum.Resultn (n0 : ℕ) : MetaM (NormNum.Result q(OfNat.ofNat (α := ℝ) $n0)) := do
+  have n : Q(ℕ) := .lit (.natVal n0)
+  let ⟨_, (pa)⟩ ← NormNum.mkOfNat q(ℝ) q(inferInstance) n
+  return NormNum.Result.isNat (α := q(ℝ)) q(inferInstance) n q(NormNum.isNat_ofNat ℝ $pa)
+
+/-- Result of `norm_num` on scientific expressions in real -/
+def NormNum.ResultOfScientific (mantissa : ℕ) (exponentSign : Bool) (decimalExponent : ℕ) :
+    MetaM (NormNum.Result q(OfScientific.ofScientific (α := ℝ) $mantissa
+    $exponentSign $decimalExponent )) := do
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: These two look misnamed; they are not types so should not be TitleCase.

This also looks fishy in general though; is this duplicating the implementation of some norm_num extensions?

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 23]
```diff
@@ -0,0 +1,294 @@
...
+  | ~q(0) =>
+  return ResultI.mk (← NormNum.Resultn 0) (← NormNum.Resultn 0)
+  | ~q(1) =>
+  return ResultI.mk (← NormNum.Resultn 1) (← NormNum.Resultn 0)
+  | ~q(OfNat.ofNat $en (self := @instOfNatAtLeastTwo ℂ _ _ $inst)) =>
+  let some n := en.rawNatLit? | failure
+  return ResultI.mk (← NormNum.Resultn n) (← NormNum.Resultn 0)
+  | ~q(OfScientific.ofScientific $em $ex $eexp) =>
+  let some m := em.rawNatLit? | failure
+  let x : Bool := ex.isConstOf ``true
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: You should `failure` if it is neither `true` nor `false`. You could define a `rawBoolLit?` helper, if one doesn't already exist.

File: Mathlib/Tactic/NormNum/NormNumI.lean [hunk 24]
```diff
@@ -0,0 +1,294 @@
...
+    let ⟨e', some pf', _⟩ := ← (← Result.eq z2 w2).toSimpResult | failure
+    if ← isDefEq e' q(True) then
+      let pfn ← mkAppM ``NormNumI.eq_of_eq_of_eq_of_eq #[pf, pf']
+      return Result'.isBool true pfn
+    else
+      let pfn ← mkAppM ``NormNumI.ne_of_im_ne #[pf']
+      return Result'.isBool false pfn
+  else
+    let pfn ← mkAppM ``NormNumI.ne_of_re_ne #[pf]
+    return Result'.isBool false pfn
```
Comment (eric-wieser) [inline Mathlib/Tactic/NormNum/NormNumI.lean]: Can you extract a `ResultI.eq {a b : Q(ℂ)} (ra : ResultI a) (rb : ResultI b)  : Result q($a = $b)` helper here?

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 21 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: Fixed

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 23 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: Fixed

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 24 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: Also this should be going via `Result.isBool`

Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: Done, now without `mkAppM`.

File: Mathlib/Analysis/RCLike/Basic.lean [hunk 25]
```diff
@@ -614,6 +614,12 @@ theorem intCast_re (n : ℤ) : re (n : K) = n := by rw [← ofReal_intCast, ofRe
 @[simp, rclike_simps, norm_cast]
 theorem intCast_im (n : ℤ) : im (n : K) = 0 := by rw [← ofReal_intCast, ofReal_im]
 
+@[simp, rclike_simps]
+theorem nnratCast_re (q : ℚ≥0) : re (q : K) = q := by rw [← ofReal_nnratCast, ofReal_re]
+
+@[simp, rclike_simps, norm_cast]
+theorem nnratCast_im (q : ℚ≥0) : im (q : K) = 0 := by rw [← ofReal_nnratCast, ofReal_im]
+
```
Comment (eric-wieser) [inline Mathlib/Analysis/RCLike/Basic.lean:622]: #39620, which also adds one more

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 24 above)
Comment (Whysoserioushah) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: thanks, if it's not you it would take me another few weeks to look at this PR again

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 20 above)
Comment (Whysoserioushah) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: maybe we should just remove this

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 22 above)
Comment (Whysoserioushah) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: when I was writing these two I had the same doubt and I failed to find any, I'd love to be proved wrong!

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 20 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: I've replaced it with `Tactic.norm_num` for now, though probably it still belongs somewhere else.

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 22 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: I've replaced both with a call to `derive`.

File: Mathlib/Tactic/NormNum/NormNumI.lean (hunk 14 above)
Comment (eric-wieser) [reply Mathlib/Tactic/NormNum/NormNumI.lean]: Fixed

File: MathlibTest/norm_numI.lean [hunk 26]
```diff
@@ -0,0 +1,103 @@
...
+example : (I:ℂ) = 0 + 1 * I := by norm_num1
+example : 0 + (1:ℂ) = 1 := by norm_num1
+example : (1.0:ℂ) + 0 = 1 := by norm_num1
+example : (1.0:ℂ) + 0.5 = 3/2 := by norm_num1
+example : I + (3/2:ℂ) = 3/2 + I := by norm_num1
+
+-- casts
+example : (Nat.cast 3 : ℂ) = 3 := by norm_num1
+example : (Int.cast (-2) : ℂ) = -2 := by norm_num1
+example : (Rat.cast 1.5 : ℂ) = 3 / 2 := by norm_num1
```
Comment (eric-wieser) [inline MathlibTest/norm_numI.lean:28]: `NNRat.cast` needs #34805
